US08754226B2
(S)-3-(4-bromo-2-fluoro-5-methylphenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride (600 mg, 1.47 mmol) was dissolved in DMSO (10 mL) and N-ethyl-N-isopropylpropan-2-amine (641 μl, 3.68 mmol) and 2-chloro-5-ethylpyrimidine (252 mg, 1.77 mmol) were added and the reaction heated to 110° C. overnight. The reaction was cooled to ambient temperature, poured into water and extracted with EtOAc, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (60% EtOAc in hexanes) to afford (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)pyrrolidin-2-one (420 mg, 0.880 mmol, 59.8% yield) as a tan solid.

reactant | (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride | 1.47 mmol, 600 mg | Cl.BrC1=CC(=C(O[C@@H]2C(N(CC2)C2CCNCC2)=O)C=C1C)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 3.68 mmol, 641 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-ethylpyrimidine | 1.77 mmol, 252 mg | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | water | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)pyrrolidin-2-one | 0.880 mmol, 420 mg, 59.8% yield | BrC1=CC(=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C2=NC=C(C=N2)CC)=O)C=C1C)F | C22H26BrFN4O2
